US08445509B2
Production of 2-chloro-5-[(4-methoxybenzyl)oxy]pyridine
To a solution of 2-chloro-5-hydroxypyridine (50 g, 0.386 mol) and potassium carbonate (80 g, 0.579 mol) in N,N-dimethylformamide (300 mL) was added p-methoxybenzyl chloride (66.5 g, 0.425 mol), and the mixture was stirred at 80° C. for 4 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the obtained residue was washed with methanol to give the title compound (61.3 g, 64%) as a white solid.

reactant | 2-chloro-5-hydroxypyridine | 0.386 mol, 50 g | ClC1=NC=C(C=C1)O | C5H4ClNO
reactant | potassium carbonate | 0.579 mol, 80 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-methoxybenzyl chloride | 0.425 mol, 66.5 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-chloro-5-[(4-methoxybenzyl)oxy]pyridine | 61.3 g, 64% | ClC1=NC=C(C=C1)OCC1=CC=C(C=C1)OC | C13H12ClNO2
